US06924278B2
A mixture of 3,3-dimethyl-4-(2-propynyl)morpholine hydrochloride (0.24 g), 37% aqueous formaldehyde (0.16 ml), (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)piperazine (0.57 g), copper(II) sulfate pentahydrate (5 mg) and potassium iodide (20 mg) in 1,4-dioxane (0.7 ml) was stirred at 90° C. for 1 hour. After being cooled to room temperature, the mixture was poured into ice-water and the aqueous mixture was made alkaline with saturated aqueous sodium hydrogen carbonate solution. The resulting mixture was extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using a mixed solvent of dichloromethane and methanol (40:1). The fractions containing the objective compound was collected and evaporated under reduced pressure and treated with 4N hydrogen chloride in ethyl acetate solution. The resulting mixture was evaporated under reduced pressure and the residue was recrystallized from a mixture of acetone and water to give colorless crystals of (2R)-1-[3,5-bis(trifluoromethyl) benzoyl]-2-(3,4-dimethylbenzyl)-4-[4-(3,3-dimethyl-morpholino)-2-butynyl]piperazine dihydrochloride (0.64 g).

reactant | 3,3-dimethyl-4-(2-propynyl)morpholine hydrochloride | 0.24 g | Cl.CC1(N(CCOC1)CC#C)C
reactant | formaldehyde | 0.16 ml | C=O | CH2O
reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)piperazine | 0.57 g | FC(C=1C=C(C(=O)N2[C@@H](CNCC2)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C22H22F6N2O
reactant | potassium iodide | 20 mg | [I-].[K+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | 1,4-dioxane | 0.7 ml | O1CCOCC1 | C4H8O2
catalyst | copper(II) sulfate pentahydrate | 5 mg | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
product | (2R)-1-[3,5-bis(trifluoromethyl) benzoyl]-2-(3,4-dimethylbenzyl)-4-[4-(3,3-dimethyl-morpholino)-2-butynyl]piperazine dihydrochloride | 0.64 g | Cl.Cl.FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC#CCN2C(COCC2)(C)C)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C32H37F6N3O2.2ClH/c1-22-7-8-24(15-23(22)2)16-28-20-39(9-5-6-10-40-13-14-43-21-30(40,3)4)11-12-41(28)29(42)25-17-26(31(33,34)35)19-27(18-25)32(36,37)38;;/h7-8,15,17-19,28H,9-14,16,20-21H2,1-4H3;2*1H/t28-;;/m1../s1
